US05338859
Example 1 of U.S. Pat. No. 4,436,910 was generally repeated as follows: p-hydroxyphenyl hydantoin (100 mM, 19.2 g) was treated with NaOH (100 mM, 4.0 g) and Ca(OH)2 (200 mM, 14.2 g) in 200 ml water at 140° C. for four hours in an autoclave. After cooling to 50° C., the precipitated CaCO3 which separated out was filtered off. The recovered mother liquor was analyzed by HPLC. It was found to contain 1.16 g p-hydroxyphenyl glycine (7% yield) in solution. Substantial amounts of decomposition (by-product) was indicated by HPLC analysis. This control experiment demonstrates that the p-hydroxyphenylglycine product when subjected under the reaction conditions [Ca(OH)2, NaOH, 140° C., H2O] suffers severe decomposition to several unwanted and unidentified products. It was quite unexpected then to find that the use per se of only a calcium base material like calcium hydroxide facilitates the production of the corresponding hydantoic acid salt in very high yields. The hydantoic acid salt can then be subjected to decarbamoylation with nitrous acid under acidic conditions to produce p-hydroxyphenylglycine, and which can in turn be optically resolved by processes such as described in U.S. Pat. Nos. 5,120,855 and 3,094,741, both of which are incorporated herein by reference in their entirety.

reactant | p-hydroxyphenyl hydantoin | 100 mM, 19.2 g | OC1=CC=C(C=C1)N1C(=O)NC(=O)C1 | C9H8N2O3
reactant | NaOH | 100 mM, 4.0 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | p-hydroxyphenyl glycine | 1.16 g, 7% yield | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
